US04309352
4-pentenal (8.4 g., 0.1 mol) was added dropwise to the Grignard reagent from magnesium turnings (2.88 g., 0.12 mol) and 1-bromohexane (19.8 g., 0.12 mol) in ether (120 ml). The reaction mixture was then refluxed for 2 hours cooled, and quenched with ammonium chloride solution. After layers were separated, ether solution was evaporated and the residue distilled to give 1-undecen-5-ol (15.0 g., 88% yield, b.p. 93°-96°/1.2 torr).

reactant | 4-pentenal | 0.1 mol, 8.4 g | C(CCC=C)=O | C5H8O
reactant | magnesium | 0.12 mol, 2.88 g | [Mg] | Mg
reactant | 1-bromohexane | 0.12 mol, 19.8 g | BrCCCCCC | C6H13Br
solvent | ether | 120 ml | CCOCC | C4H10O
product | 1-undecen-5-ol | 15.0 g, 88% yield | C=CCCC(CCCCCC)O | C11H22O
